US06180630B2
2-(2-Fluorophenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one
4-Chloro-5,6,7,8-tetrahydrocinnoline-3-carboxylic acid ethyl ester (0.5 g), 2-fluorophenylhydrazine hydrochloride (0.34 g) and H{umlaut over (u)}nig's base (0.73 ml) in xylene were heated under reflux for 3 h. The solvent was evaporated under reduced pressure and the residue purified by flash chromatography using a gradient elution: CH2Cl2 (500 ml), CH2Cl2/(MeOH/NH3 10:1) 99:1 (500 ml), CH2Cl2/(MeOH/NH3 10:1) 98:2 (500 ml), CH2Cl2/(MeOH/NH3 10:1) 97:3 (500 ml), CH2Cl2/(MeOH/NH3 10:1) 96:4 (500 ml), CH2Cl2(MeOH/NH3 10:1) 95:5 (500 ml). The appropriate fractions were combined and evaporated under reduced pressure to give a solid (250 mg, 42%). δH (360 MHz; DMSO) 1.83 (4H, m, CH2), 2.61 (2H, t, J=5.3 Hz, CH2), 2.75 (2H, t, J=5.3 Hz, CH2), 7.30-7.57 (4H, m, ArH), m/z (ESP+) 285 (MH+). C15H13FN4O requires C, 63.37; H, 4.61; N, 19.71; found C, 63.18; H, 4.70; N, 19.35%.

reactant | 4-Chloro-5,6,7,8-tetrahydrocinnoline-3-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1N=NC=2CCCCC2C1Cl | C11H13ClN2O2
reactant | 2-fluorophenylhydrazine hydrochloride | 0.34 g | Cl.FC1=C(C=CC=C1)NN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-Fluorophenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one | 250 mg, 42% | FC1=C(C=CC=C1)N1N=C2C(=NNC=3CCCCC23)C1=O | C15H13FN4O
